US05128448
A solution of 678 mg (3.03 mmol) of (S)-α-aminotricyclo[3.3.1.1-3,7]decane-2-propanoic acid, 795 mg (3.64 mmol) of di-tert-butyl dicarbonate and 850 μL (6.07 mmol) of triethylamine in 40 mL of DMF was stirred 3 h at room temperature. The mixture was concentrated and the residue was partitioned between dichloromethane and water. The aqueous phase was extracted with dichloromethane and the combined extracts were dried (Na2SO4). Concentration afforded an oil which was purified by flash chromatography eluting with 5% methanol:dichloromethane to afford 777 mg (79%) of (S)-α-[[[(1,1-dimethylethyl)oxy]-carbonyl]amino]tricyclo[3.3.1.1-3,7]decane-2-propanoic acid.

reactant | (S)-α-aminotricyclo[3.3.1.1-3,7]decane-2-propanoic acid | 3.03 mmol, 678 mg | N[C@H](C(=O)O)CC1C2CC3CC(CC1C3)C2 | C13H21NO2
reactant | di-tert-butyl dicarbonate | 3.64 mmol, 795 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 6.07 mmol, 850 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | (S)-α-[[[(1,1-dimethylethyl)oxy]-carbonyl]amino]tricyclo[3.3.1.1-3,7]decane-2-propanoic acid | 777 mg, 79% | CC(C)(C)OC(=O)N[C@H](C(=O)O)CC1C2CC3CC(CC1C3)C2 | C18H29NO4
